US07968552B2
In an atmosphere of nitrogen, a mixture of 1-bromo-4-(3-fluoro-3-methylbutoxy)-2-methylbenzene, methyl 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate, palladium acetate, dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, tripotassium phosphate, toluene and water was stirred at 80° C. for 12 hours to obtain methyl 4′-(3-fluoro-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-carboxylate. Lithium aluminum hydride was added to a THF solution of the resulting methyl 4′-(3-fluoro-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-carboxylate under ice-cooling, followed by warming up to room temperature and stirring for 1 hour to obtain [4′-(3-fluoro-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-yl]methanol.

reactant | 1-bromo-4-(3-fluoro-3-methylbutoxy)-2-methylbenzene | BrC1=C(C=C(C=C1)OCCC(C)(C)F)C | C12H16BrFO
reactant | methyl 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC1=C(C(=O)OC)C=CC=C1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 4′-(3-fluoro-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-carboxylate | FC(CCOC1=CC(=C(C=C1)C1=C(C(=CC=C1)C(=O)OC)C)C)(C)C | C21H25FO3
